US05569653
Decanoic acid 1,1-diethyl-3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl ester hydrochloride
To a solution of 6-fluoro-3-[1-(3-hydroxy-3-ethylpentyl)-4-piperidinyl]-1,2-benzisoxazole (2.5 g, 7.48 mmol) in DCM (100 ml) was added decanoyl chloride (1.5 ml, 7.48 mmol) at 0 C., under nitrogen. The reaction mixture was stirred for 4 days at which time it was poured into NaHCO35 (sat., 50 ml). The layers were separated and the aqueous phase was extracted with DCM (2×). The combined organics were dried, filtered and concentrated to give the crude product which was purified via flash column chromatography (silica gel, 20-40% EtOAc/DCM). The product containing fractions were concentrated to give 3.0 g (81%) of the desired product as a yellow oil. The hydrochloride salt was prepared in anhydrous ether (60 ml) and isopropanol (1 ml) with ethereal HCl. The white salt was filtered and washed with anhydrous ether, m.p.=159°-161° C.

reactant | 6-fluoro-3-[1-(3-hydroxy-3-ethylpentyl)-4-piperidinyl]-1,2-benzisoxazole | 7.48 mmol, 2.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(CC)(CC)O)C=C1 | C19H27FN2O2
reactant | decanoyl chloride | 7.48 mmol, 1.5 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Decanoic acid 1,1-diethyl-3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl ester hydrochloride | 3.0 g, 81% | Cl.C(C)C(CCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)(CC)OC(CCCCCCCCC)=O | InChI=1S/C29H45FN2O3.ClH/c1-4-7-8-9-10-11-12-13-27(33)34-29(5-2,6-3)18-21-32-19-16-23(17-20-32)28-25-15-14-24(30)22-26(25)35-31-28;/h14-15,22-23H,4-13,16-21H2,1-3H3;1H
